US07723369B2
5-{4-[2-(3′-Amino-4′-isobutyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-[1,2,5]thiadiazolidin-3-one-1,1-dioxide (22 mg, 0.03 mmol) was reacted with butyraldehyde (2.2 mg, 0.03 mmol) according to general procedure X to give 5-{4-[2-(3′-butylamino-4′-isobutyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{4-[2-(3′-Amino-4′-isobutyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-[1,2,5]thiadiazolidin-3-one-1,1-dioxide | 0.03 mmol, 22 mg | NC=1C=C(C=CC1CC(C)C)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O | C34H31Cl2N5O3S
reactant | butyraldehyde | 0.03 mmol, 2.2 mg | C(CCC)=O | C4H8O
product | 5-{4-[2-(3′-butylamino-4′-isobutyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | C(CCC)NC=1C=C(C=CC1CC(C)C)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O | C38H39Cl2N5O3S
